Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
clindamycin
 
Attending: ___.
 
Chief Complaint:
diarrhea, n/v
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of HLD, GERD, asthma who presents with nausea and
diarrhea, admitted for colitis. Patient notes yesterday, he 
began
feeling nauseous in the middle of the day. He reports he and his
friend had grinders earlier in the day - his with chicken. His
nausea worsened over the day. That evening, patient began having
multiple episodes of loose stools and fever to 101 at home.
Denies any emesis at that time, no blood or mucous in stool. He
got up later in the night to use the bathroom and was having
problems with his balance. The friend with whom he was staying
thought he seemed confused thus brought him to ___. CTH
at ___ without acute pathology. CT A/P with colitis. He
received vanc, ___, CTX, and acyclovir for concern for
meningitis as well as colitis. He was transferred to ___. Here
at ___, patient noted to be appropriate and not confused. 

Patient denies recent travel, no raw or undercooked meat however
had chicken from fast food place on day of presentation. No 
joint
swelling, oral ulcers, or rashes. No family history of IBD.
Denies new medications or OTC supplements. Has some mild
abdominal discomfort but denies pain. Denies dysuria or penile
discharge, no flank or back pain. He did not try any medications
for his diarrhea, no aggravating factors to his knowledge. He 
was
tested for HIV ___ years ago and was negative. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

PAST MEDICAL/SURGICAL HISTORY:
HLD
GERD
Asthma
No past surgical history

 
Social History:
___
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization
 
Physical Exam:
Admission exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Breathing is non-labored, faint expiratory wheezing, no
crackles
GI: Abdomen soft, mildly distended, mildly TTP throughout.  
Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs
___ 07:00AM BLOOD Glucose-103* UreaN-17 Creat-1.4* Na-140 
K-4.2 Cl-104 HCO3-20* AnGap-16
___ 07:00AM BLOOD WBC-17.2* RBC-4.90 Hgb-14.9 Hct-44.3 
MCV-90 MCH-30.4 MCHC-33.6 RDW-13.2 RDWSD-43.2 Plt ___

Discharge labs
___ 05:11AM BLOOD WBC-9.8 RBC-4.79 Hgb-14.4 Hct-43.0 MCV-90 
MCH-30.1 MCHC-33.5 RDW-13.2 RDWSD-43.6 Plt ___
___ 05:11AM BLOOD Glucose-83 UreaN-9 Creat-0.9 Na-143 K-4.0 
Cl-106 HCO3-24 AnGap-13

Micro
FECAL CULTURE (Final ___: 
      ___.    CONFIRMED BY STATE LAB ___. 
         Reported to and read back by ___ ___ (___) AT 1529 
 ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SHIGELLA SONNEI
                             |   
AMPICILLIN------------  =>32 R
CIPROFLOXACIN---------   =>4 R
TRIMETHOPRIM/SULFA---- =>320 R

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical history 
of HLD, GERD, asthma who presents with nausea and diarrhea, 
admitted for colitis.

#Nausea/vomiting
#Diarrhea
#Sepsis now resolved
#Colitis - etiology presumably infectious given reported fever 
at home, leukocytosis. No sick contacts and no recent travel 
however as patient recently ate at ___ restaurant. He was 
started on CTX and flagyl and symptoms improved. Preliminary 
stool culture with Shigella. He was discharged on cipro to 
complete ___fter discharge, final culture noted 
Shigella resistant to Cipro therefore was changed to cefpodoxime 
(see telephone encounter)

___ - likely was prerenal from hypovolemia from ongoing 
diarrhea, resolved with fluids. 

#GERD - continue protonix

#asthma - continue home singulair, albuterol prn

#HLD - continue home statin

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine 20 mg PO DAILY 
2. Montelukast 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, SOB 
5. Aspirin 325 mg PO DAILY 
6. Cialis (tadalafil) 5 mg oral 1X:ASDIR 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*8 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*12 Tablet Refills:*0 
3.  Ondansetron ODT 4 mg PO Q8H:PRN nausea Duration: 5 Days 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*15 Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, SOB  
5.  Amphetamine-Dextroamphetamine 20 mg PO DAILY  
6.  Aspirin 325 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Cialis (tadalafil) 5 mg oral 1X:ASDIR  
9.  Montelukast 10 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for diarrhea and vomiting. You were found to 
have an infection of your colon and were started on antibiotics. 
You also required IV fluids for low blood pressure due to 
dehydration. You improved with antibiotics and fluids. You will 
complete 7 days total of antibiotics. 

Thank you for allowing us to participate in your care
Your ___ team
 
Followup Instructions:
___